US08877780B2
To a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.97 g, 3.00 mmol) and 4-chlorobenzoyl chloride (0.53 g, 3.30 mmol) in THF (20 mL), was added DIPEA (1.05 mL, 6.00 mmol) at room temperature under nitrogen. The mixture was heated to 40° C. for 18 h then cooled to rt. The solvent was removed in vacuo and the residue was dissolved in EtOAc (100 mL). The organic layer was washed with dil. aq. HCl (2×150 mL), water (100 mL), dried (MgSO4) and then concentrated. The crude product was purified by column chromatography (0-5% MeOH/CH2Cl2). The product fractions were combined, concentrated and triturated in Et2O (50 mL) for 18 h. The product was isolated by filtration and dried in vacuo to give 4-chloro-N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide as a white solid (0.80 g, 63% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 4.97 min (97.05%); mp: 178-180° C.; 1H NMR (DMSO-d6) δ 1.92-2.15 (m, 1H, CHH), 2.54-2.71 (m, 2H, CHH, CHH), 2.77-3.02 (m, 1H, CHH), 4.65 (d, J=5.9 Hz, 2H, CH2), 5.15 (dd, J=5.5, 12.8 Hz, 1H, CH), 7.53-7.63 (m, 2H, Ar), 7.74-7.87 (m, 2H, Ar), 7.87-8.03 (m, 3H, Ar), 9.31 (t, J=5.9 Hz, 1H, NH), 11.13 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.99, 30.93, 42.67, 48.99, 122.01, 123.55, 128.50, 129.21, 129.84, 131.62, 132.64, 133.47, 136.30, 147.38, 165.40, 166.96, 167.10, 169.80, 172.72; LCMS: MH=426/428; Anal Calcd for C21H16N3O5Cl: C, 58.98; H, 3.82; N, 9.83. Found: C, 58.67; H, 3.67; N, 9.53.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.00 mmol, 0.97 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | 4-chlorobenzoyl chloride | 3.30 mmol, 0.53 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | DIPEA | 6.00 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide | 0.80 g, 63% yield | ClC1=CC=C(C(=O)NCC=2C=C3C(N(C(C3=CC2)=O)C2C(NC(CC2)=O)=O)=O)C=C1 | C21H16ClN3O5
